US07662830B2
1. 2-{4-[6-(3-Chloro-4-fluorophenyl)-2-(2-methy-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-bromopyrimidine
Heat a solution of 5-bromo-2-chloropyrimidine (Lancaster Chemicals, 565 mg), 4-(3-chloro-4-fluorophenyl)-2-(2-methylpyrrolidin-1-yl)-6-piperazin-1-yl-pyrimidine (1000 mg), DIEA (500 mg) and DMA (5 mL) at 110° C. for 3 h under nitrogen. Dilute with EtOAc (15 mL), wash with water (3×10 mL), dry (Na2SO4), and evaporate. Purify by silica gel chromatography, eluting with 1:1 hexanes:EtOAc to provide the title compound.

reactant | 5-bromo-2-chloropyrimidine | 565 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 4-(3-chloro-4-fluorophenyl)-2-(2-methylpyrrolidin-1-yl)-6-piperazin-1-yl-pyrimidine | 1000 mg | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCNCC1)N1C(CCC1)C | C19H23ClFN5
reactant | DIEA | 500 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-{4-[6-(3-Chloro-4-fluorophenyl)-2-(2-methy-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-bromopyrimidine | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=NC=C(C=N1)Br | C23H24BrClFN7
